US07592358B2
21.1d. 2-{4-[3-chloro-5-(4-chlorophenyl)pyridin-2-ylethynyl]phenoxy}ethanol
The product was prepared analogously to Example 7.1e starting from 3-chloro-5-(4-chlorophenyl)-2-ethynylpyridine and 2-(4-iodophenoxy)ethanol. Yield: 0.48 g (66% of theoretical); C21H15Cl2NO2 (M=384.255); calc.: molpeak (M+H)+384/386/388 (2Cl); found: molpeak (M+H)+: 384/386/388 (2Cl); HPLC-MS: 6.24 minutes (method B).

reactant | 3-chloro-5-(4-chlorophenyl)-2-ethynylpyridine | ClC=1C(=NC=C(C1)C1=CC=C(C=C1)Cl)C#C | C13H7Cl2N
reactant | 2-(4-iodophenoxy)ethanol | IC1=CC=C(OCCO)C=C1 | C8H9IO2
product | 2-{4-[3-chloro-5-(4-chlorophenyl)pyridin-2-ylethynyl]phenoxy}ethanol | ClC=1C(=NC=C(C1)C1=CC=C(C=C1)Cl)C#CC1=CC=C(OCCO)C=C1 | C21H15Cl2NO2
